US07618985B2
2-Phenoxyethyl bromide (1 mol eq) was added to a suspension of 6-(piperidin-4-yloxy)-2H-isoquinolin-1-one (30 mg, 0.12 mmol) and potassium carbonate (50 mgs, 3 mol) in N, N-dimethylformamide (1 ml) and shaken for 17 hours. The reactions was quenched with hydrochloric acid (2M) and methanol and passed down an SCX cartridge. The product was purified by preparative HPLC under basic conditions. The clean product was isolated by evaporation under reduced pressure to afford 6-[1-(2-phenoxyethyl)piperidin-4-yloxy]-2H-isoquinolin-1-one: El-MS: m/z=365.1 [M+H]+.

reactant | 2-Phenoxyethyl bromide | 1 mol | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | 6-(piperidin-4-yloxy)-2H-isoquinolin-1-one | 0.12 mmol, 30 mg | N1CCC(CC1)OC=1C=C2C=CNC(C2=CC1)=O | C14H16N2O2
reactant | potassium carbonate | 3 mol, 50 mgs | C([O-])([O-])=O.[K+].[K+]
solvent | N, N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 6-[1-(2-phenoxyethyl)piperidin-4-yloxy]-2H-isoquinolin-1-one | O(C1=CC=CC=C1)CCN1CCC(CC1)OC=1C=C2C=CNC(C2=CC1)=O | C22H24N2O3
